US07595320B2
40 mg (108 μmol) of tetrabutylammonium iodide, followed by 184 mg (1.61 mmol) of cis-2,6-dimethylpiperazine, are added to a solution of 290 mg (0.54 mmol) of an approximately 70:30 mixture of tert-butyl 3-(4-chloromethylbenzoylamino)-5-(N′-methyl-N′-phenylhydrazinocarbonyl)thieno[2,3-c]pyrazole-1-carboxylate and tert-butyl 3-(4-chloromethylbenzoylamino)-5-(N′-(4-chlorophenyl)-N′-methylhydrazinocarbonyl)thieno[2,3-c]pyrazole-1-carboxylate in 6 mL of dimethylformamide under argon. The reaction mixture is stirred at a temperature in the region of 25° C. for 3 hours, and then poured into a mixture of ice, ethyl acetate and n-heptane. The mixture is filtered on a sinter funnel, suction-filtered and air-dried. The solid obtained is dissolved in 5 mL of methanol and the solution is introduced into a microwave oven tube. The tube is stoppered and the reaction mixture is irradiated at a temperature in the region of 100° C. for three times 10 minutes. The reaction mixture is then concentrated to dryness under vacuum (2 kPa) at a temperature in the region of 40° C. The residue is purified by preparative LC/MS (condition B′). 130 mg of 4-(3,5-dimethylpiperazin-1-ylmethyl)-N-[5-(N′-methyl-N′-phenylhydrazinocarbonyl)-1H-thieno[2,3-c]pyrazol-3-yl]benzamide are thus obtained in the form of a yellow powder melting between 192 and 202° C. LC-MS-DAD-ELSD: 518(+)=(M+H)(+).

reactant | cis-2,6-dimethylpiperazine | 1.61 mmol, 184 mg | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | tert-butyl 3-(4-chloromethylbenzoylamino)-5-(N′-methyl-N′-phenylhydrazinocarbonyl)thieno[2,3-c]pyrazole-1-carboxylate | ClCC1=CC=C(C(=O)NC=2C3=C(N(N2)C(=O)OC(C)(C)C)SC(=C3)C(=O)NN(C3=CC=CC=C3)C)C=C1 | C26H26ClN5O4S
reactant | tert-butyl 3-(4-chloromethylbenzoylamino)-5-(N′-(4-chlorophenyl)-N′-methylhydrazinocarbonyl)thieno[2,3-c]pyrazole-1-carboxylate | ClCC1=CC=C(C(=O)NC=2C3=C(N(N2)C(=O)OC(C)(C)C)SC(=C3)C(=O)NN(C)C3=CC=C(C=C3)Cl)C=C1 | C26H25Cl2N5O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrabutylammonium iodide | 108 μmol, 40 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | methanol | 5 mL | CO | CH4O
solvent | n-heptane | CCCCCCC | C7H16
product | 4-(3,5-dimethylpiperazin-1-ylmethyl)-N-[5-(N′-methyl-N′-phenylhydrazinocarbonyl)-1H-thieno[2,3-c]pyrazol-3-yl]benzamide | 130 mg | CC1CN(CC(N1)C)CC1=CC=C(C(=O)NC=2C3=C(NN2)SC(=C3)C(=O)NN(C3=CC=CC=C3)C)C=C1 | C27H31N7O2S
